US08975252B2
5N Aqueous solution of sodium hydroxide (3.4 ml) was added to a solution of ethyl 4-(3-methoxypropyl)-2-naphthoate (2.41 g) in ethanol and the mixture was stirred at room temperature for 3 hours. The reaction solution was acidified by adding 10% hydrochloric acid under ice-cooling and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over sodium sulfate and concentrated in vacuo. The resulted residue was triturated in n-hexane to give 4-(3-methoxypropyl)-2-naphthoic acid (2.09 g) as a colorless powder.

reactant | sodium hydroxide | 3.4 ml | [OH-].[Na+]
reactant | ethyl 4-(3-methoxypropyl)-2-naphthoate | 2.41 g | COCCCC1=CC(=CC2=CC=CC=C12)C(=O)OCC | C17H20O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 4-(3-methoxypropyl)-2-naphthoic acid | 2.09 g | COCCCC1=CC(=CC2=CC=CC=C12)C(=O)O | C15H16O3
